US07795255B2
Acetyl chloride (31 ml) was added dropwise over a time period of 5 minutes to ethanol (180 ml) while stirring and cooling in ice water bath. After additional 5 minutes, the obtained solution was added to a solution of 4-amino-3,3-dimethyl-butyric acid hydrochloride (30.07 grams, 180 mmol) in ethanol (20 ml). The mixture was refluxed at 85° C. for 16 hours, and the solvent was removed under reduced pressure to give to 4-amino-3,3-dimethyl-butyric acid ethyl ester hydrochloride (33.11 grams, 94% yield) as oil.

reactant | Acetyl chloride | 31 ml | C(C)(=O)Cl | C2H3ClO
reactant | 4-amino-3,3-dimethyl-butyric acid hydrochloride | 180 mmol, 30.07 grams | Cl.NCC(CC(=O)O)(C)C
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 4-amino-3,3-dimethyl-butyric acid ethyl ester hydrochloride | 33.11 grams, 94% yield | Cl.C(C)OC(CC(CN)(C)C)=O | InChI=1S/C8H17NO2.ClH/c1-4-11-7(10)5-8(2,3)6-9;/h4-6,9H2,1-3H3;1H
